US07129238B2
In analogy to example 16.4 (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-hydroxy-phenyl)-2-ethoxy-acetamide was reacted with isopropyl iodide to give (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-isopropoxy-phenyl)-2-ethoxy-acetamide. Colorless oil. MS 387.1 ([M−H]−)

reactant | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-hydroxy-phenyl)-2-ethoxy-acetamide | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C=C(C=C2F)O)F)=O)C=C1 | C18H16F2N2O3
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-isopropoxy-phenyl)-2-ethoxy-acetamide | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C=C(C=C2F)OC(C)C)F)=O)C=C1 | C21H22F2N2O3
